US07078428B2
3.6 g of 1,1,1-trifluoro-3-iodopropane are added dropwise to a mixture of 7.5 g of 4-chlorophthalimide and 4.6 g of potassium carbonate in 40 cm3 of dimethylformamide at a temperature in the region of 110° C. with stirring. After stirring for 11 hours at a temperature in the region of 120° C., the reaction mixture is cooled to a temperature in the region of 20° C. and then poured into 200 cm3 of water. The mixture is acidified with dilute aqueous hydrochloric acid solution to a pH of about 3, and is then extracted 3 times with 100 cm3 of ethyl acetate. The organic phase is dried over magnesium sulfate and then concentrated to dryness. 5.0 g of 4-chloro-N-(3,3,3-trifluoropropyl)phthalamic acid are thus obtained, Rf=0.12 (thin layer chromatography on silica gel, eluent: ethyl acetate).

reactant | 1,1,1-trifluoro-3-iodopropane | 3.6 g | FC(CCI)(F)F | C3H4F3I
reactant | 4-chlorophthalimide | 7.5 g | ClC=1C=C2C(C(=O)NC2=O)=CC1 | C8H4ClNO2
reactant | potassium carbonate | 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
solvent | water | 200 cm3 | O | H2O
product | 4-chloro-N-(3,3,3-trifluoropropyl)phthalamic acid | 5.0 g | ClC=1C=C(C(C(=O)O)=CC1)C(=O)NCCC(F)(F)F | C11H9ClF3NO3
